US04051248
A. 1-[(3,4-Dihydro-2-naphthalenyl)methyl]-4-anilino isonipecotamide
A mixture of 4-anilino isonipecotamide (5.5 g), 3,4-dihydro-2-chloromethylnaphthalene (4.0 g), and powdered sodium carbonate (3.5 g) in toluene (200 ml) containing several crystals of iodine is refluxed for 14 hours with vigorous stirring under nitrogen. The reaction mixture is then cooled, diluted with methylene chloride (100 ml), and filtered. The filtrate is concentrated and the crude product triturated with ethyl acetate (100 ml) to give the title compound.

reactant | 4-anilino isonipecotamide | 5.5 g | N(C1=CC=CC=C1)C1(CCNCC1)C(=O)N | C12H17N3O
reactant | 3,4-dihydro-2-chloromethylnaphthalene | 4.0 g | ClCC1=CC2=CC=CC=C2CC1 | C11H11Cl
reactant | sodium carbonate | 3.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | iodine | II | I2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-[(3,4-Dihydro-2-naphthalenyl)methyl]-4-anilino isonipecotamide | C1=C(CCC2=CC=CC=C12)CN1CCC(C(=O)N)(CC1)NC1=CC=CC=C1 | C23H27N3O
